US04303664
A mixture of 8-methoxycoumarin-3-carboxylic acid (0.66 g) and thionyl chloride (2.5 ml) was heated under reflux for one and half hours. Distilling off the excess thionyl chloride in vacuo gave 8-methoxycoumarin-3-carboxylic acid chloride. Reaction of this product with amoxycillin, 1.257 g, in the same manner as in example 16, yielded D(-)-α-(8-methoxycoumarin-3-carbonamido)-p-hydroxybenzylpenicillin (0.95 g), melting at 187°-9° C. (dec.).

reactant | 8-methoxycoumarin-3-carboxylic acid | 0.66 g | COC=1C=CC=C2C=C(C(OC12)=O)C(=O)O | C11H8O5
reactant | thionyl chloride | 2.5 ml | S(=O)(Cl)Cl | Cl2OS
product | 8-methoxycoumarin-3-carboxylic acid chloride | COC=1C=CC=C2C=C(C(OC12)=O)C(=O)Cl | C11H7ClO4
